US07858781B2
(1) N′-[1-Benzyl-3-methyl-piperidin-(4E)-ylidene]-N,N-dimethyl-hydrazine (42)
N,N-dimethylhydrazine (3 ml, 39.3 mmol) and 1-benzyl-3-methyl-piperidin-4-one (4 g, 19.7 mmol) are dissolved in 50 ml of ethanol and refluxed for 18 hours. The reaction mixture is evaporated under reduced pressure and dried at high vacuum.

reactant | N,N-dimethylhydrazine | 39.3 mmol, 3 ml | CN(N)C | C2H8N2
reactant | 1-benzyl-3-methyl-piperidin-4-one | 19.7 mmol, 4 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N′-[1-Benzyl-3-methyl-piperidin-(4E)-ylidene]-N,N-dimethyl-hydrazine | C(C1=CC=CC=C1)N1CC(\C(\CC1)=N\N(C)C)C | C15H23N3
